US05182045
Synthesis of Octanoyl-oxyacetyl-oxyacetyl Chloride
5.6 g (0.022 mole) octanoyl-oxyacetyl-oxyacetic acid, 50 ml hexame were placed in a 250 ml round bottom flask. 2.9 ml (0.03 mole) oxalyl chloride was added in one portion and the reaction stirred at room temperature for 6 hours. The reaction was then heated to 80° C., a distillation head attached with condenser and receiver, and the excess oxalyl chloride and solvent removed at reduced pressure. There remained 4.5 g of light yellow oil. IR spectrum reveals no free -OH and a broad v-c=o absorbance, with maxima at 1815, 1780 and 1755 cm-1.

reactant | octanoyl-oxyacetyl-oxyacetic acid | 0.022 mole, 5.6 g | C(CCCCCCC)(=O)OCC(=O)OCC(=O)O | C12H20O6
reactant | oxalyl chloride | 0.03 mole, 2.9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | Octanoyl-oxyacetyl-oxyacetyl Chloride | C(CCCCCCC)(=O)OCC(=O)OCC(=O)Cl | C12H19ClO5
